US04278686
p-Nitrobenzyl (5R,6E)-3-(2-acetamidoethylthio)-6-ethylidene-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate
p-Nitrobenzyl (5R,6R)-3-(2-acetamidoethylthio)-6-[(S)-1-methylsulphonyloxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (e11) (67 mg) was stirred with K2CO3 (70 mg) in dimethylformamide (2 ml) at room temperature for 1 hour. Work-up as in Example 2 gave a residue which was triturated with ethyl acetate/ether to afford a solid which was collected by filtration. The solid (10 mg) was identified as p-nitrobenzyl (5R,6E)-3-(2-acetamidoethylthio)-6-ethylidene-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (e12); δ(DMF-d7) ca. 1.85 (3H, d, CH3CH), 1.87 (3H, s, CH3CO) ca. 2.7-3.5 (6H, m, NCH2CH2S and 4-CH2), 4.85 (1H, br t, J 9 Hz, 5-CH), 5.29 and 5.53 (each 1H, d, J 14 Hz, CH2Ar), 6.38 (1H, br q, J 7 Hz, CH3CH), 7.76 and 8.20 (each 2H, d, J 9 Hz, ArCH2), and ca. 8.0 (1H, NH).

reactant | p-Nitrobenzyl (5R,6R)-3-(2-acetamidoethylthio)-6-[(S)-1-methylsulphonyloxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 67 mg | C(C)(=O)NCCSC1=C(N2C([C@H]([C@H]2C1)[C@H](C)OS(=O)(=O)C)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C21H25N3O9S2
reactant | K2CO3 | 70 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | p-Nitrobenzyl (5R,6E)-3-(2-acetamidoethylthio)-6-ethylidene-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | C(C)(=O)NCCSC1=C(N2C(/C(/[C@H]2C1)=C/C)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C20H21N3O6S
